US05496946
Production of tert-butyl 4-(5-methoxy-4-pentenyl)benzoate
By following the same procedure as described in Reference Example 1, tert-butyl 4-(4-oxobutyl)benzoate (993 mg) was treated with (methoxymethyl)triphenylphosphonium chloride to give the subject compound (918 mg) in the form of a colorless oily substance.

reactant | tert-butyl 4-(4-oxobutyl)benzoate | 993 mg | O=CCCCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C15H20O3
reactant | (methoxymethyl)triphenylphosphonium chloride | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl 4-(5-methoxy-4-pentenyl)benzoate | 918 mg | COC=CCCCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C17H24O3
